US07563800B2
6-(2,4-Difluoro-phenoxy)-3-isopropoxy-pyrazolo[3,4-d]pyrimidine-1-carboxylic acid (190 mg) was treated with a solution of CF3CO2H (0.3 mL) in CH2Cl2 (5 mL) at room temperature for four hours. The reaction mixture was then concentrated under reduced pressure and the residue was purified by flash column chromatography flushing with 30% ethyl acetate in hexanes to give 60 mg of 6-(2,4-difluoro-phenoxy)-3-isopropoxy-1H-pyrazolo[3,4-d]pyrimidine, m.p. 143.7-145.0° C., MS (M+1)+: 307.

reactant | 6-(2,4-Difluoro-phenoxy)-3-isopropoxy-pyrazolo[3,4-d]pyrimidine-1-carboxylic acid | 190 mg | FC1=C(OC2=NC=C3C(=N2)N(N=C3OC(C)C)C(=O)O)C=CC(=C1)F | C15H12F2N4O4
reactant | CF3CO2H | 0.3 mL | C(F)(F)(F)C(=O)O | C2HF3O2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 6-(2,4-difluoro-phenoxy)-3-isopropoxy-1H-pyrazolo[3,4-d]pyrimidine | 60 mg | FC1=C(OC2=NC=C3C(=N2)NN=C3OC(C)C)C=CC(=C1)F | C14H12F2N4O2
